US08669254B2
5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-{(S)-2-[(E)-2,2,2-trifluoro-ethoxyimino]-cyclohexyl}-nicotinamide
To a solution of 0.100 g 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-{(S)-2-[(E)-hydroxyimino]-cyclohexyl}-nicotinamide in 1.0 ml dimethylformamide was added 0.012 g sodium hydride 55% in oil and the mixture was stirred at room temperature for 30 min. To the resulting solution was added 0.037 ml (0.062 g, 1.1 equivalents) 2,2,2-trifluoroethyl-trifluoro-methanesulfonate and the mixture was stirred at room temperature for 18 h. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel using a gradient of heptane:ethyl acetate=95:5 to 50:50 to yield 0.040 g of the title compound as light yellow oil. MS (EI): 496.3 (M+H).

reactant | 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-{(S)-2-[(E)-hydroxyimino]-cyclohexyl}-nicotinamide | 0.100 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@@H]2/C(/CCCC2)=N/O)C1)OCC1CC1 | C22H24ClN3O3
reactant | sodium hydride | 0.012 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl-trifluoro-methanesulfonate | 0.037 ml, 0.062 g, 1.1 equivalents | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-{(S)-2-[(E)-2,2,2-trifluoro-ethoxyimino]-cyclohexyl}-nicotinamide | 0.040 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@@H]2/C(/CCCC2)=N/OCC(F)(F)F)C1)OCC1CC1 | C24H25ClF3N3O3
